US07585885B2
(S)-2-sec-Butylamino-6-(2-fluorophenyl)-isonicotinic acid
Chill a solution of (S)-2-sec-butylamino-6-(2-fluorophenyl)-isonicotinic acid methyl ester (1.31 g, 4.32 mmol) in methanol (5 mL) and THF (5 mL). Add 2 N NaOH (6.50 mL, 13.0 mmol) stir at room temperature for 3 h, and acidify the solution to about pH=2 and concentrate to one half of the solvent. Partition the residue between ethyl acetate and water. Extract the aqueous layer with ethyl acetate (2×30 mL). Wash the combined organic extracts with saturated aqueous sodium chloride, dry (magnesium sulfate) and concentrate to give the title compound (80%).

reactant | (S)-2-sec-butylamino-6-(2-fluorophenyl)-isonicotinic acid methyl ester | 4.32 mmol, 1.31 g | COC(C1=CC(=NC(=C1)C1=C(C=CC=C1)F)N[C@@H](C)CC)=O | C17H19FN2O2
reactant | NaOH | 13.0 mmol, 2 N, 6.50 mL | [OH-].[Na+]
solvent | methanol | 5 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | (S)-2-sec-Butylamino-6-(2-fluorophenyl)-isonicotinic acid | 80% | [C@H](C)(CC)NC=1C=C(C(=O)O)C=C(N1)C1=C(C=CC=C1)F | C16H17FN2O2
